US06458772B1
c) 4-(N-benzyloxycarbonyl-L-valyloxy) cyclohexanoic acid
To a solution of 4-methoxybenzyl 4-(N-benzyloxycarbonyl-L-valyloxy)-cyclohexanoate (12 g, 24.1 mmole) in dichloromethane (100 ml) was added trifluoroacetic acid (20 ml) and the mixture was stirred for 3 hours at room temperature. The solution was evaporated under reduced pressure and coevaporated two times with toluene. The residue was stirred 1 hour with about 100 ml ethanol and the white solid was filtered (byproduct). The solution was evaporated under reduced pressure and the product was isolated by silica gel column chromatography with toluene/acetone. Yield: 6.8 g=74%. The product can be activated and esterified directly to a drug or firer modified as described below.

reactant | 4-methoxybenzyl 4-(N-benzyloxycarbonyl-L-valyloxy)-cyclohexanoate | 24.1 mmole, 12 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)OC1CCC(CC1)C(=O)OCC1=CC=C(C=C1)OC | C28H35NO7
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-(N-benzyloxycarbonyl-L-valyloxy) cyclohexanoic acid | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)OC1CCC(CC1)C(=O)O | C20H27NO6
